US08076517B2
A 5 L, 4-neck flask equipped with thermometer and magnetic stirring, was dried in an oven and maintained under argon while 2 L anhydrous CH2Cl2 was added, followed by N′-(2,2-dimethyl-propylidene)-hydrazinecarboxylic acid benzyl ester (220 g, 939 mmoles). The mixture was chilled and stirred in large, ca. 10 gal ice/brine bath at 2-3° C. (S,S)-2-allyl-2-chloro-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine (363 g, 1.355 moles) was added to the flask over ca. 30 min using a cannula and assistance with gentle argon pressure. The originally pale yellow solution became a transparent light orange, while the temperature remained at 2-3° C. The reaction was allowed to warm to room temperature on its own accord and was monitored by quenching a small aliquot in CH3OH and analyzing by TLC (2:1 hexanes:EtOAc). 36 hours after initiation, TLC analysis indicated ca. 90% completion. The mixture was chilled to 5° C., an additional 48 g (0.179 mmoles) oxazasilolidine were added, and the mixture was allowed to warm to room temperature. Ca. 8 hours later, the reaction was again cooled to 5° C. and quenched with a pre-chilled solution of 100 g K2CO3 in 100 mL deionized water over a period of ca. 1 h. During the quench, an exotherm raised the temperature to as high as 17° C. Approximately 100 mL additional deionized water was added. The solution became a transparent blue-green in appearance. At no time during the reaction or quench was there any apparent evolution of gas. After 4 days of stirring at room temperature, the solution was light yellow in color, and after 5 days, the organic phase had gelled but remained light yellow in color. The mixture was chilled to ca 15° C. (later apparent that this is not necessary), ca. 1.25 L hexanes was added, and the gel was partially collapsed and broken up with overhead stirring. The supernatant was siphoned off and filtered through glass wool while alternately adding ca. 1 L portions to the white gel remaining in the flask. Additional hexanes were also added to the supernatant to precipitate pseudoephedrine as a white solid and to collapse any remaining gel. The hexane extracts were combined and solvent was removed in vacuo. Overall, through extractions of gel, hexanes-induced precipitation of pseudoephedrine, and filtrations through glass wool and a glass-fritted Büchner funnel, approximately 5-6 L hexanes was used to obtain the crude allyl hydrazide as a yellow oil. In batches, this crude material was treated with ca. three volumes of hexanes, allowed to stand at room temp, decanted from precipitated pseudoephedrine, and transferred to a separatory funnel. The product solution was isolated from residual pseudoephedrine by washing thrice with ca. 25 mL each 1.4 N HCl (much color also removed), followed by washes with 10% K2CO3 and brine. The hexanes solution of crude product was dried over solid anhydrous Na2SO4, and solvent was removed in vacuo to give a light-yellow colored viscous oil. TLC (2:1 hexanes:EtOAc) showed desired product Rf=0.4; two impurities at 0.25 and 0.31 (5-10% each, one of them probably starting material), and a few less prominent impurities above Rf=0.4. Pseudoephedrine previously detected at the baseline was now absent. A total of 196.8 g (75.8%) (R)—N′-(1-tert-butyl-but-3-enyl)-hydrazinecarboxylic acid benzyl ester was isolated as an amber oil after removing trace solvent on a vacuum pump. The original gel, now somewhat condensed and granular, was extracted with ca. 2 L boiling hexanes. Solids were filtered, hexanes were stripped, and the oil was decanted from precipitated pseudoephedrine, yielding ca. 18 g. This material was combined with residues from the primary product batch above (ca. 3-4 g), and washed with 1.4 N HCl, aq. K2CO3, and brine as before. The hexanes were stripped to yield 20.6 grams additional product, as an amber oil which by TLC appears identical to the first batch. A 10.1 g portion of (R)—N′-(1-tert-butyl-but-3-enyl)-hydrazinecarboxylic acid benzyl ester was chromatographed quantitatively on silica gel to yield 8.88 g (88% yield for chromatography) pure product as a clear, off-white oil. Rf=0.43 (2:1 hexanes:ethyl acetate); 1H NMR (400 MHz, CDCl3) δ 7.4 (5H, br s), 6.2 (1H, br s), 6.0 (1H, br s), 5.15 (2H, s), 5.1 (2H, s), 4.1 (1H, br), 2.7 (1H, m), 2.4 (1H, br d), 2.0 (1H, m), 0.95 (9H, s); ee=98.1%, AD-H column; [α]25589 −42.5° (c 2.18, CH3OH).

reactant | N′-(2,2-dimethyl-propylidene)-hydrazinecarboxylic acid benzyl ester | 939 mmoles, 220 g | C(C1=CC=CC=C1)OC(=O)NN=CC(C)(C)C | C13H18N2O2
reactant | (S,S)-2-allyl-2-chloro-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine | 1.355 moles, 363 g | C(C=C)[Si@]1(OC([C@@H](N1C)C)C1=CC=CC=C1)Cl | C13H18ClNOSi
reactant | oxazasilolidine | 0.179 mmoles, 48 g | O1N[SiH2]CC1 | C2H7NOSi
product | pseudoephedrine | C[C@@H]([C@H](C=1C=CC=CC1)O)NC | C10H15NO
